US05308866
EXAMPLE 30: N-{2-[5-(CYCLOHEXEN-3-YLOXY)INDOL-3-YL]-ETHYL}-CYCLOPROPYLCARBOXAMIDE
1.98×10-2 mol of potassium carbonate, 1.33×10-2 mol of N-[2-(5-hydroxyindol-3-yl)ethyl]cyclopropylcarboxamide dissolved in 20 cm3 of anhydrous acetone, and 2.1×10-2 mol of 3-bromocyclohexene are introduced into a 50 cm3 flask with a ground neck. The mixture is heated under reflux for 22 hours. The reaction medium is filtered and the filtrate is evaporated under reduced pressure Recrystallisation of the evaporation residue in ethyl acetate yields purified N-{2-[5-(cyclohexen-3-yloxy)indol-3-yl]ethyl}-cyclopropylcarboxamide.

reactant | potassium carbonate | 1.98×10-2 mol | C([O-])([O-])=O.[K+].[K+]
reactant | N-[2-(5-hydroxyindol-3-yl)ethyl]cyclopropylcarboxamide | 1.33×10-2 mol | OC=1C=C2C(=CNC2=CC1)CCNC(=O)C1CC1 | C14H16N2O2
reactant | 3-bromocyclohexene | 2.1×10-2 mol | BrC1C=CCCC1 | C6H9Br
solvent | acetone | 20 cm3 | CC(=O)C | C3H6O
product | N-{2-[5-(CYCLOHEXEN-3-YLOXY)INDOL-3-YL]-ETHYL}-CYCLOPROPYLCARBOXAMIDE | C1=CC(CCC1)OC=1C=C2C(=CNC2=CC1)CCNC(=O)C1CC1 | C20H24N2O2
